US07732463B2
1-tert-Butoxycarbonyl-4-[2-(2-methyl-phenylsulfanyl)-5-fluoro-phenyl]-piperidine-4-ol (intermediate for 2a5).
Prepared from 4-hydroxy-4-(2-mercapto-5-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester and 1-iodo-2-methyl-benzene.

reactant | 4-hydroxy-4-(2-mercapto-5-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=CC(=C1)F)S)O | C16H22FNO3S
reactant | 1-iodo-2-methyl-benzene | IC1=C(C=CC=C1)C | C7H7I
product | 1-tert-Butoxycarbonyl-4-[2-(2-methyl-phenylsulfanyl)-5-fluoro-phenyl]-piperidine-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)SC1=C(C=CC=C1)C | C23H28FNO3S
